US09085555B2
6-Trifluoromethyl-3-isocyanato-indole-1-carboxylic acid amide
was prepared from 6-trifluoromethylindole using the protocol described for steps B-E in scheme A4 for the preparation of 5-allyloxy-3-isocyanato-indole-1-carboxylic acid amide except that the acyl azide intermediate was prepared in 1,2 dimethoxyethane instead of toluene.

reactant | 6-trifluoromethylindole | FC(C1=CC=C2C=CNC2=C1)(F)F | C9H6F3N
reactant | 5-allyloxy-3-isocyanato-indole-1-carboxylic acid amide | C(C=C)OC=1C=C2C(=CN(C2=CC1)C(=O)N)N=C=O | C13H11N3O3
solvent | 1,2 dimethoxyethane | COCCOC | C4H10O2
product | 6-Trifluoromethyl-3-isocyanato-indole-1-carboxylic acid amide | FC(C1=CC=C2C(=CN(C2=C1)C(=O)N)N=C=O)(F)F | C11H6F3N3O2
